US06335445B1
A spatula tip's worth of Nickel of Raney is added to a solution of 1.25 g (3.4 mmoles) of N-(4-nitrobenzyl)-3-(t-butoxycarbonyl)thiazolidine-2-carboxamide in 2.5 ml of methanol. The whole is taken to reflux and hydrazine hydrate (1.75 ml) is added dropwise to the medium. The reaction is maintained for 1 hour under reflux, then returned to ambient temperature. The catalyst is filtered off and abundantly rinsed with methanol. The solvent is evaporated off under reduced pressure. Then the residue is taken up in dichloromethane (20 ml) and washed 3 times with 15 ml of water. The organic phase is dried and the solvent is evaporated off under reduced pressure. N-(4-aminobenzyl)-3-(t-butoxycarbonyl)thiazolidine-2-carboxamide is obtained in the form of an inert yellow solid (0.815 g, 71%); it will be used in following stages without further purification.

reactant | N-(4-nitrobenzyl)-3-(t-butoxycarbonyl)thiazolidine-2-carboxamide | 3.4 mmoles, 1.25 g | [N+](=O)([O-])C1=CC=C(CNC(=O)C2SCCN2C(=O)OC(C)(C)C)C=C1 | C16H21N3O5S
reactant | hydrazine hydrate | 1.75 ml | O.NN
solvent | methanol | 2.5 ml | CO | CH4O
catalyst | Nickel | [Ni] | Ni
product | N-(4-aminobenzyl)-3-(t-butoxycarbonyl)thiazolidine-2-carboxamide | NC1=CC=C(CNC(=O)C2SCCN2C(=O)OC(C)(C)C)C=C1 | C16H23N3O3S
